US05256824
A mixture of 2,2-bis(p-tolyl)acetic acid (8.52 g), allyl alcohol (6.6 ml) and p-toluenesulfonic acid monohydrate (0.34 g) in toluene (25 ml) was refluxed for 20 hours with continuous removal of water with Dean-Stark apparatus. After being cooled, the mixture was poured into 1N Sodium hydroxide aqueous solution and extracted with ethyl acetate. The extract was washed with 1N sodium hydroxide aqueous solution, 1N hydrochloric acid and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by column chromatography on silica gel with methylene chloride as an eluent to give allyl 2,2-bis(p-tolyl)acetate (8.09 g).

reactant | 2,2-bis(p-tolyl)acetic acid | 8.52 g | C1(=CC=C(C=C1)C(C(=O)O)C1=CC=C(C=C1)C)C | C16H16O2
reactant | allyl alcohol | 6.6 ml | C(C=C)O | C3H6O
reactant | p-toluenesulfonic acid monohydrate | 0.34 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | Sodium hydroxide | 1N | [OH-].[Na+]
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | allyl 2,2-bis(p-tolyl)acetate | 8.09 g | C1(=CC=C(C=C1)C(C(=O)OCC=C)C1=CC=C(C=C1)C)C | C19H20O2
